* +++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* CDL Netlist:                                          *
*                                                       *
* Cell Name  : lna_4                                    *
* Netlisted  : Tue Jan 27 10:12:45 2015                 *
* PVS Version: 12.1.1-p076 Wed May  1 11:22:57 PDT 2013 *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++ *
*.LDD
*.DEVTMPLT 0 L(ind_0n4) IND_SEL IND_1(PLUS) IND_1(MINUS)
*.DEVTMPLT 1 L(ind_1n5) IND_SEL IND_2(PLUS) IND_2(MINUS)
*.DEVTMPLT 2 L(ind_2n0) IND_SEL IND_3(PLUS) IND_3(MINUS)
*.DEVTMPLT 3 L(ind_2n8) IND_SEL IND_4(PLUS) IND_4(MINUS)

* +++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: L                                           *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt L PLUS MINUS
.ends L

* +++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: power_rail                                  *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt power_rail GD VD
** N=2 EP=2 FDC=8
C0 VD GD 5.15657e-12 L=1e-05 Er=9.1 TOX=2.5e-08 W=1e-05 $[mim_cap] $X=90000 $Y=420000
C1 VD GD 5.15657e-12 L=1e-05 Er=9.1 TOX=2.5e-08 W=1e-05 $[mim_cap] $X=190000 $Y=420000
C2 VD GD 5.15657e-12 L=1e-05 Er=9.1 TOX=2.5e-08 W=1e-05 $[mim_cap] $X=290000 $Y=420000
C3 VD GD 5.15657e-12 L=1e-05 Er=9.1 TOX=2.5e-08 W=1e-05 $[mim_cap] $X=390000 $Y=420000
C4 VD GD 5.15657e-12 L=1e-05 Er=9.1 TOX=2.5e-08 W=1e-05 $[mim_cap] $X=490000 $Y=420000
C5 VD GD 5.15657e-12 L=1e-05 Er=9.1 TOX=2.5e-08 W=1e-05 $[mim_cap] $X=590000 $Y=420000
C6 VD GD 5.15657e-12 L=1e-05 Er=9.1 TOX=2.5e-08 W=1e-05 $[mim_cap] $X=690000 $Y=420000
C7 VD GD 5.15657e-12 L=1e-05 Er=9.1 TOX=2.5e-08 W=1e-05 $[mim_cap] $X=790000 $Y=420000
.ends power_rail

* +++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: PAD_100                                     *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt PAD_100 1
** N=1 EP=1 FDC=0
.ends PAD_100

* +++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: lna_4                                       *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt lna_4 BIAS1 BIAS2 BIAS3 BIAS4 GD IN OUT VD1 VD2
** N=30 EP=9 FDC=148
X0 GD VD1 power_rail $T=220000 2212000 0 90 $X=-280000 $Y=2282000
X1 GD VD1 power_rail $T=372000 3230000 0 90 $X=-128000 $Y=3300000
X2 GD VD1 power_rail $T=522000 3230000 0 90 $X=22000 $Y=3300000
X3 GD VD1 power_rail $T=350000 1282000 0 0 $X=420000 $Y=1702000
X4 GD VD1 power_rail $T=350000 1440000 0 0 $X=420000 $Y=1860000
X5 GD VD1 power_rail $T=350000 1592000 0 0 $X=420000 $Y=2012000
X6 GD VD1 power_rail $T=350000 1732000 0 0 $X=420000 $Y=2152000
X7 GD VD1 power_rail $T=672000 3616000 0 0 $X=742000 $Y=4036000
X8 GD VD1 power_rail $T=972000 3714000 0 0 $X=1042000 $Y=4134000
X9 GD VD1 power_rail $T=1820000 1416000 0 90 $X=1320000 $Y=1486000
X10 GD VD1 power_rail $T=1986000 2860000 0 90 $X=1486000 $Y=2930000
X11 GD VD2 power_rail $T=1906000 928000 0 0 $X=1976000 $Y=1348000
X12 GD VD2 power_rail $T=1906000 2220000 0 0 $X=1976000 $Y=2640000
X13 GD VD2 power_rail $T=2950000 2462000 1 180 $X=2060000 $Y=2882000
X14 GD VD2 power_rail $T=4046000 1358000 0 90 $X=3546000 $Y=1428000
X15 GD VD2 power_rail $T=4046000 2320000 0 90 $X=3546000 $Y=2390000
X16 BIAS1 PAD_100 $T=-124000 1840000 0 0 $X=-124000 $Y=1840000
X17 GD PAD_100 $T=-124000 2300000 0 0 $X=-124000 $Y=2300000
X18 GD PAD_100 $T=-124000 2900000 0 0 $X=-124000 $Y=2900000
X19 BIAS2 PAD_100 $T=572000 4304000 0 0 $X=572000 $Y=4304000
X20 GD PAD_100 $T=1422000 4304000 0 0 $X=1422000 $Y=4304000
X21 GD PAD_100 $T=1618000 1068000 0 0 $X=1618000 $Y=1068000
X22 VD1 PAD_100 $T=1732000 4304000 0 0 $X=1732000 $Y=4304000
X23 GD PAD_100 $T=1928000 1068000 0 0 $X=1928000 $Y=1068000
X24 BIAS3 PAD_100 $T=3248000 1640000 0 0 $X=3248000 $Y=1640000
X25 BIAS4 PAD_100 $T=3248000 1940000 0 0 $X=3248000 $Y=1940000
X26 GD PAD_100 $T=3248000 2432000 0 0 $X=3248000 $Y=2432000
X27 GD PAD_100 $T=3248000 3032000 0 0 $X=3248000 $Y=3032000
X28 VD2 PAD_100 $T=3248000 3476000 0 0 $X=3248000 $Y=3476000
X29 GD PAD_100 $T=3248000 3782000 0 0 $X=3248000 $Y=3782000
M0 18 11 17 gfet W=1e-05 L=2e-06 $X=1702000 $Y=2716000
M1 9 10 18 gfet W=1e-05 L=2e-06 $X=1702000 $Y=2734000
M2 19 13 GD gfet W=5e-05 L=2e-06 $X=1964000 $Y=2786000
M3 14 12 19 gfet W=5e-05 L=2e-06 $X=1964000 $Y=2804000
C4 IN 16 5.15657e-12 L=1e-05 Er=9.1 TOX=2.5e-08 W=1e-05 $[mim_cap] $X=162000 $Y=2660000
C5 10 GD 5.15657e-12 L=1e-05 Er=9.1 TOX=2.5e-08 W=1e-05 $[mim_cap] $X=1578000 $Y=2784000
C6 9 GD 7.25143e-13 L=1e-05 Er=9.1 TOX=2.5e-08 W=1e-05 $[mim_cap] $X=1654000 $Y=2900000
C7 11 17 1.5792e-13 L=1e-05 Er=9.1 TOX=2.5e-08 W=1e-05 $[mim_cap] $X=1676000 $Y=2678000
C8 9 13 5.15657e-12 L=1e-05 Er=9.1 TOX=2.5e-08 W=1e-05 $[mim_cap] $X=1784000 $Y=2754000
C9 12 GD 5.15657e-12 L=1e-05 Er=9.1 TOX=2.5e-08 W=1e-05 $[mim_cap] $X=2090000 $Y=2730000
C10 14 OUT 5.15657e-12 L=1e-05 Er=9.1 TOX=2.5e-08 W=1e-05 $[mim_cap] $X=2254000 $Y=2790000
X41 16 11 L L=2.8e-09 $[ind_2n8] $X=290000 $Y=2670000 $dt=3
X42 GD 17 L L=2.8e-09 $[ind_2n8] $X=1686000 $Y=1452000 $dt=3
X43 9 VD1 L L=2.8e-09 $[ind_2n8] $X=1802000 $Y=2972000 $dt=3
R14 BIAS1 16 10000 L=5e-05 W=5e-06 R_sheet=1000 $[graph_res] $X=224000 $Y=2510000
R15 10 BIAS2 10000 L=5e-05 W=5e-06 R_sheet=1000 $[graph_res] $X=1458000 $Y=2782000
R16 BIAS3 13 10000 L=5e-05 W=5e-06 R_sheet=1000 $[graph_res] $X=1912000 $Y=2636000
R17 14 VD2 100 L=2e-06 W=2e-05 R_sheet=1000 $[graph_res] $X=1964000 $Y=2850000
R18 14 VD2 100 L=2e-06 W=2e-05 R_sheet=1000 $[graph_res] $X=2018000 $Y=2850000
R19 12 BIAS4 10000 L=5e-05 W=5e-06 R_sheet=1000 $[graph_res] $X=2246000 $Y=2734000
.ends lna_4
